US04258047
A solution of 2.27 g of dicyclohexylcarbodiimide in 10 ml of dry THF is added slowly, at 5°-10°, to a solution of 3.13 g of (5-p-chlorophenyl-1-phenyl-pyrazol-4-yl)-acetic acid in 25 ml of dry THF. The mixture is stirred for 15 minutes at 5°-10°, a solution of 1.23 g of 4-hydroxy-1-methylpiperidine in 10 ml of dry THF is then added at 5°-10°, the resulting mixture is stirred for 3 hours at 20° and subjected to the customary working up, and 1-methyl-4-piperidyl (5-p-chlorophenyl-1-phenylpyrazol-4-yl)-acetate is obtained; m.p. 90°-93°. Hydrochloride, m.p. 234°-236°.

reactant | dicyclohexylcarbodiimide | 2.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (5-p-chlorophenyl-1-phenyl-pyrazol-4-yl)-acetic acid | 3.13 g | ClC1=CC=C(C=C1)C1=C(C=NN1C1=CC=CC=C1)CC(=O)O | C17H13ClN2O2
reactant | 4-hydroxy-1-methylpiperidine | 1.23 g | OC1CCN(CC1)C | C6H13NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-methyl-4-piperidyl (5-p-chlorophenyl-1-phenylpyrazol-4-yl)-acetate | ClC1=CC=C(C=C1)C1=C(C=NN1C1=CC=CC=C1)CC(=O)OC1CCN(CC1)C | C23H24ClN3O2
